US07067517B2
N-(2,2-Dimethyl-propyl)-6-hydroxy-nicotinamide
A solution of 6-hydroxynicotinic acid (1.39 g, 10.0 mmol), 1-hydroxy-7-azabenztriazole (1.50 g, 11.0 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.11 g, 11.0 mmol) in dimethylformamide (25 mL) was stirred at room temperature for 20 minutes. A solution of 2,2-dimethylpropylamine (0.96 g, 11.0 mmol) and N,N-diisopropylethylamine (1.42 g, 11.0 mmol) in a small amount of dimethylformamide was added. Stirring was continued for 0.5 hour at room temperature. Ethyl acetate was added and the reaction mixture was extracted twice with water. The solvent was evaporated in vacuo yielding the title compound, which was used without further purification.

reactant | 6-hydroxynicotinic acid | 10.0 mmol, 1.39 g | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | 1-hydroxy-7-azabenztriazole | 11.0 mmol, 1.50 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 11.0 mmol, 2.11 g | Cl.CN(CCCN=C=NCC)C
reactant | 2,2-dimethylpropylamine | 11.0 mmol, 0.96 g | CC(CN)(C)C | C5H13N
reactant | N,N-diisopropylethylamine | 11.0 mmol, 1.42 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2,2-Dimethyl-propyl)-6-hydroxy-nicotinamide | CC(CNC(C1=CN=C(C=C1)O)=O)(C)C | C11H16N2O2
